US05622976
A mixture of 4-(2-hydroxyethyl)piperidine (21.5 g), 4-fluorobenzaldehyde (17.5 ml) and p-toluene sulfonic acid (3 mg) in benzene (200 ml) was refluxed with separating water as the benzene azeotrope. After 2 hours, the mixture was evaporated in vacuo. The residue was dissolved in methanol (200 ml) and sodium borohydride (6.3 g) was added thereto at 5° C. After stirring at ambient temperature for 1 hour, the mixture was evaporated in vacuo. 4N Hydrochloric acid (200 ml) was added to the residue and washed with ethyl acetate. The aqueous layer was made basic to pH 10 with potassium carbonate and extracted with ethyl acetate. The extract was washed with water and brine, and dried over magnesium sulfate, and evaporated in vacuo to give 1-(4-fluorobenzyl)-4-(2-hydroxyethyl)piperidine (32.0 g) as an oil.

reactant | 4-(2-hydroxyethyl)piperidine | 21.5 g | OCCC1CCNCC1 | C7H15NO
reactant | 4-fluorobenzaldehyde | 17.5 ml | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | p-toluene sulfonic acid | 3 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 1-(4-fluorobenzyl)-4-(2-hydroxyethyl)piperidine | 32.0 g | FC1=CC=C(CN2CCC(CC2)CCO)C=C1 | C14H20FNO
